US09056863B2
A mixture of 2-fluoro-3-nitro-pyridine (12 g), Et3N (30 mL), and racemic alanine (11.87 g) was refluxed in methanol (200 mL) overnight. The mixture was cooled to ambient temperature and the filtrate was concentrated in vacuo. The residue was partitioned between DCM and water. The organic layer was dried over Na2CO3, filtered, and concentrated in vacuo to afford 2-(3-nitro-pyridin-2-ylamino)-propionic acid (7.8 g). This material was dissolved in AcOH (50 mL) and iron (8.2 g) was added. The mixture was refluxed for 1.5 h. After cooling to ambient temperature, the mixture was filtered, and the filtrate was concentrated in vacuo. The residue was washed with water and dried to afford 3-methyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (1.4 g). This material was mixed with 5% aq NaOH (92 mL) and water (18 mL) before 30% aq hydrogen peroxide (9.2 mL) was added. The mixture was stirred at 60° C. for 10 h. After cooling to ambient temperature the pH was adjusted to neutral to precipitate 3-methyl-1H-pyrido[2,3-b]pyrazin-2-one (1.2 g). This material was dissolved in DMF (10 mL) and treated with PyBroP (4.6 g) and DIPEA (1.6 mL) at ambient temperature of 16 h. The precipitated white solid was filtered off, washed with ethanol and dried to afford 2-(benzotriazol-1-yloxy)-3-methyl-pyrido[2,3-b]pyrazine (0.4 g). This material (0.4 g) and hydrazine hydrate (0.5 mL) were refluxed in ethanol (5 mL) for 10 min. After cooling to ambient temperature, the precipitated white solid was filtered off, washed with ethanol and dried to afford give IIa (0.2 g) sufficiently pure for the next step.

reactant | 2-fluoro-3-nitro-pyridine | 12 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | Et3N | 30 mL | CCN(CC)CC | C6H15N
reactant | racemic alanine | 11.87 g | N[C@@H](C)C(=O)O | C3H7NO2
solvent | methanol | 200 mL | CO | CH4O
product | 2-(3-nitro-pyridin-2-ylamino)-propionic acid | 7.8 g | [N+](=O)([O-])C=1C(=NC=CC1)NC(C(=O)O)C | C8H9N3O4
